US05250517
In a manner analogous to that described for the preparation of α-benzyltetrahydro-β-oxo-4H-1,4-oxazinepropionic acid, benzylmalonic acid monomethyl ester was amidated with piperidine-4-carboxylic acid ethyl ester and the resulting compound [MS: 347 (M)+ ]was saponified with 1N sodium hydroxide solution in a mixture of methanol and water at 0° for 2 hours. The crude product obtained was purified by chromatography on silica gel with a 95:5:2 mixture of chloroform, ethanol and ethyl acetate and recrystallized from a mixture of methanol, methylene chloride and ether, to yield 1-[α-(methoxycarbonyl)hydrocinnamoyl]-4-piperidinecarboxylic acid, melting point 138°.

reactant | α-benzyltetrahydro-β-oxo-4H-1,4-oxazinepropionic acid | C(C1=CC=CC=C1)C(C(=O)O)C(C1OCCNC1)=O | C14H17NO4
reactant | benzylmalonic acid monomethyl ester | COC(C(C(=O)O)CC1=CC=CC=C1)=O | C11H12O4
reactant | piperidine-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCNCC1 | C8H15NO2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | 1-[α-(methoxycarbonyl)hydrocinnamoyl]-4-piperidinecarboxylic acid | COC(=O)C(C(=O)N1CCC(CC1)C(=O)O)CC1=CC=CC=C1 | C17H21NO5
